US05536701
3-Hydroxy-5-methoxypyridazine (629.6 g, 4.99 moles) and phosphorus oxychloride (2.5 L, 27 moles) were added to a 5 L round bottomed flask equipped with a heating mantle and a mechanical stirrer. The resulting stirred slurry was rapidly heated (<30 min) to 75° C. At this temperature the heating mantle was removed. The reaction mixture continued to exotherm to a final temperature of 82.3° C. After the solids had dissolved in the darkening reaction mixture, stirring was continued an additional 2 minutes. The homogeneous reaction mixture was then rapidly cooled to room temperature with an ice/water bath. The reaction mixture was concentrated via rotary evaporator using pump vacuum and a water bath temperature of 45° C. The residue was taken up in 2 L of CH2Cl2 and slowly poured into a stirring mixture of 2 L CH2Cl2 and 6 L of H2O chilled to 10° C. The layers were separated and enough 50% NaOH was added to the aqueous phase to give a pH of 2-4. The aqueous phase was extracted with additional CH2Cl2 (2×2 L). The combined organic layers were washed with 4 L of H2O and dried (MgSO4). The solution was vacuum filtered through 1 kg of silica gel. The silica gel was washed with 4 L of ethyl acetate/hexane (1:1). The filtrate was concentrated in vacuo to afford 564 g (78% yield) of 3-chloro-5-methoxypyridazine as a pale yellow solid. The product was stored in a freezer to prevent gradual decomposition. The product was recrystallized from ethyl acetate/cyclohexane to give a white solid, mp=98°-100° C.

reactant | 3-Hydroxy-5-methoxypyridazine | 4.99 moles, 629.6 g | OC=1N=NC=C(C1)OC | C5H6N2O2
reactant | phosphorus oxychloride | 27 moles, 2.5 L | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-5-methoxypyridazine | 564 g, 78% yield | ClC=1N=NC=C(C1)OC | C5H5ClN2O
